US06566367B2
Reflux 4-trifluoromethylsulfonyl-phenylamine (5 g) and Ac2O (2.2 mL) for 1.5 hours in HOAc (20 mL). Evaporate the solvent in vacuo, then crystallize the residue in EtOAc/EtOH to obtain N-(4-trifluoromethylsulfonyl-phenyl)-acetamide.

reactant | 4-trifluoromethylsulfonyl-phenylamine | 5 g | FC(S(=O)(=O)C1=CC=C(C=C1)N)(F)F | C7H6F3NO2S
reactant | Ac2O | 2.2 mL | CC(=O)OC(=O)C | C4H6O3
solvent | HOAc | 20 mL | CC(=O)O | C2H4O2
product | N-(4-trifluoromethylsulfonyl-phenyl)-acetamide | FC(S(=O)(=O)C1=CC=C(C=C1)NC(C)=O)(F)F | C9H8F3NO3S
